Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Omnipaque / oxaliplatin / Iodinated Contrast Media
 
Attending: ___
 
Chief Complaint:
fevers
 
Major Surgical or Invasive Procedure:
___: 14 ___ Right Chest Tube Insertion 
___: Uncomplicated 18-gauge targeted liver biopsy x 3, with 
specimens sent to pathology and microbiology.
 
History of Present Illness:
================================================================ 


Oncology Hospitalist Admission

Date: ___

================================================================

PCP: ___
PRIMARY ONCOLOGIST: ___., MD
PRIMARY DIAGNOSIS: Pancreatic Cancer
TREATMENT REGIMEN: FOLFOX with Oxaliplatin Desensitization

CHIEF COMPLAINT: Fever

HISTORY OF PRESENT ILLNESS:

Mr. ___ is a pleasant ___ years old Male who presents to
___ ED for the further evaluation of fever at home (tmax of
101). He has a complicated oncological history after undergoing
multiple chemo regimens and multiple Whipple attempts with prior
hepatic abscess drained by ___ and history of cholangitis that 
was
treated. He has required multiple GI interventions via MRCP for
micro abscesses on the liver and he has been on prophylactic
Augmentin for the past three weeks. Temperatures at home have
been slowly climbing up, 99.4 last night but reached 101 this 
AM.
His wife called her oncologist who recommended he come in for
further medical care. Pt also endorse back pain secondary to an
L5 bulging disc, for which he recently underwent a plexus block
on ___. He otherwise feels well and reports no other
constitutional symptoms. He denies any chills, chest pain,
shortness of breath, nausea, vomiting, diarrhea, abdominal pain,
recent prolonged traveling, or known exposure to sick contacts.
Of note, last session of chemo was in ___ of this year.

In the ED, initial vitals: 101.5 92 128/74 16 94% RA
 
Past Medical History:
PAST ONCOLOGIC HISTORY: 

Pancreatic cancer stage IIA (T3N0M0)
- ___ Developed loose stool. 
- ___ Developed weight loss following TKR surgery despite
eating regularly. He reported increased frequency of his stools
for which he avoided lactose. 
- ___ He was seen by Dr. ___ who felt he had a
malabsorption from CF gene and f/u for this was started,
including an abdominal U/S to look at the pancreas. This
unfortunately revealed a 3.2 x 3.1 x 2.8 cm pancreatic head 
mass with PD dilatation worrisome for malignancy. Two
indeterminate hepatic masses were seen. 
- ___ He underwent EUS which revealed an ill-defined
pancreatic head mass w/o vascular involvement, which confirmed
moderately-differentiated pancreatic ductal adenocarcinoma. CA
___ found to be elevated to 492. 
- ___ CTA torso showed an ill-defined, infiltrative
hypoattenuating mass in the head of the pancreas, consistent 
with
adenocarcinoma, resulting in pancreaticobiliary ductal
obstruction, and with stranding extending to superior 
mesenteric and splenic veins. Hyperenhancing lesion in the dome
of the liver may represent hemangioma, however is incompletely
characterized on this split bolus examination. 
- ___ Underwent attempted Whipple resection.
Intra-operatively, he was found to have a large, inflammatory
carcinoma measuring 7-8 cm occupying the entire pancreas into 
the
uncinate and down to the root of the mesentery (and 
down by the superior mesenteric vessels). Due to the severity of
the inflammatory pancreatitis and the size of the tumor were
prohibitive to proceed with an attempt at safe
pancreaticoduodenectomy resection. As such, it was 
determined to be locally invasive and open CCY and double bypass
performed, fiducials placed. Of note, the liver was also
inspected intra-operatively and the possible hemangioma seen in
the dome on imaging was not seen or palpable and the liver 
looked
healthy overall. Uncomplicated post-op course. 
- ___ C1D1 FOLFIRINOX
- ___ C1D1 DF/HCC ___ CAT-IQ trial
- ___ C2D1 FOLFIRINOX + Neulasta
- ___ CTA torso showed stable disease, new line 
associated
clot. Holding isoquercetin and switch to enoxaparin. 
Chemotherapy
hold for toxicity
- ___ C3D1 FOLFOX6 (holding IRI from FOLFIRINOX)
- ___ - ___ Admitted with fever, found to have Ecoli
bacteremia. 
- ___ C3D15 FOLFIRNOX (IRI reduced by 50% to 90 mg/m2)
- ___ SBRT to tumor
- ___ held FOLFIRINOX given stomach pain, fatigue, LFTs up
- ___ FOLFOX, found to have UGT1A1 polymorphism
- ___ CTA torso showed decrease in the pancreatic mass 
and
no metastatic disease. Felt to represent resectable disease
- ___ Taken to the OR for curative attempt with a 
Whipple.
Liver lesions noted during the procedure. Biopsies were taken 
and
fresh sections read as adenocarcinoma, so Whipple was aborted.
Final pathology showed biliary hamartomas however. 
- ___ MR abdomen showed 2.9 x 2.7 cm pancreatic head mass
contacting the SMV less than 90 degrees with associated distal
pancreas atrophy. No definite metastases in the abdomen,
including liver.
- ___ Third attempt at Whipple found inoperable vascular
involvement at the SMV root
- ___ CT torso showed stable locally advanced disease, no
metastatic disease
- ___ CTA showed continued gradual decrease in size of
pancreatic mass, no metastatic disease
- ___ CT torso showed stable disease, no metastatic
disease
- ___ CT torso showed stable disease, no metastatic
disease
- ___ CT torso showed stable disease, no metastatic
disease
- ___ CT torso showed stable disease, no metastatic
disease
- ___ CT torso showed stable disease, no metastatic
disease
- ___ CT torso showed stable disease, no metastatic
disease
- ___ EUS with path showing adenocarcinoma, ERCP unable 
to
be performed due to anatomy
- ___ CT torso showed stable disease, no metastatic
disease, small, nonocclusive thrombus of the portal vein.
- ___ CT torso showed stable disease
- ___ CT chest showed 7 tiny (<5mm) lung nodules
- ___ PET with 3.5 x 2.5 cm pancreatic head mass; No 
other
areas of abnormal FDG uptake noted.
- ___ - ___ Admitted for slowed speech, found to have
epileptiform discharges and started on keppra. brain MRI neg 
- ___ CT chest ___. MR abdomen progressive disease of
pancreatic head
- ___ FOLFOX C1D1
- ___ FOLFOX C1D15 held due to oxaliplatin reaction
- ___ MRCP with slightly improved cholangitis, stable
disease
- ___ FOLFOX C2D1 with inpatient oxaliplatin
desensitization
- ___ FOLFOX C2D15 with inpatient oxaliplatin
desensitization
- ___: admitted with fevers, found to have liver
abscesses
- ___: MRI with improved cholangitis, stable panc head mass
- ___: FOLFOX C3D1 with inpatient oxaliplatin
desensitization
- ___: FOLFOX C3D15 with inpatient oxaliplatin
desensitizaton
- ___: EGD with banding of two grade II-III varices
- ___ CT chest and MR abdomen showed persistent evidence
of cholangitis but resolved abscess, stable disease
- ___ C4D1 mFOLFOX with oxali densensitization (LV 200
mg/m2 ci5FU 960 mg/m2/day) + Neulasta
- ___ CT chest and MR abdomen show stable chronic
cholangitis and stable disease
- ___ MRCP with stable chronic cholangitis, stable
pancreatic head mass, and subcentimeter lesions in segment 4A 
and
8 consistent with either microabscesses or metastatic lesions

PAST MEDICAL HISTORY:  

- Pancreatic Cancer, as above
- Portal Vein Thrombus
- Opioid Use Disorder on Suboxone
- s/p total knee replacement
- s/p appendectomy
- L5 Disc herniation

 
Social History:
___
Family History:
 1.  Mother died of cholangiocarcinoma.
 2.  Father was unknown to him, but died in his ___.
 3.  No other family history of malignancy.

 
Physical Exam:
VITAL SIGNS: ___ ___ Temp: 98.0 PO BP: 130/78 HR: 85 RR: 
16 O2 sat: 97% O2 delivery: RA 
General:  NAD
HEENT:  MMM 
CV:  RR, NL S1S2 no S3S4, no MRG
PULM:  CTAB, respirations unlabored, improved aeration at the R 
base
ABD:  BS+ SNT/ND has RLQ TTP that is chronic and unchanged from 
baseline
LIMBS:  No ___, WWP
SKIN:  No rashes on extremities
NEURO:  Speech fluent, strength grossly intact
PSYCH: thought process logical, linear, future oriented
ACCESS: chest port site intact w/o erythema, dressing C/D/I
 
Pertinent Results:
___ 05:02AM BLOOD WBC-13.7* RBC-3.60* Hgb-8.6* Hct-27.3* 
MCV-76* MCH-23.9* MCHC-31.5* RDW-19.5* RDWSD-53.5* Plt ___
___ 05:55AM BLOOD Glucose-178* UreaN-10 Creat-0.5 Na-135 
K-4.3 Cl-99 HCO3-22 AnGap-14
___ 05:02AM BLOOD ALT-28 AST-34 AlkPhos-479* TotBili-0.4
___ 05:02AM BLOOD Iron-14*
___ 05:55AM BLOOD Calcium-8.2* Phos-2.4* Mg-1.9
___ 05:02AM BLOOD calTIBC-198* Ferritn-147 TRF-152*
___ 01:14PM BLOOD CEA-84.0*
___ 01:14PM BLOOD CA ___ -PND
___ 10:15AM PLEURAL TNC-2200* ___ Polys-55* 
Lymphs-5* Monos-1* Baso-1* Macro-38* Other-0
___ 10:15AM PLEURAL TotProt-4.0 Glucose-104 LD(LDH)-368 
Albumin-2.1 Cholest-62 proBNP-___ w/ locally advanced, non-resectable pancreatic cancer s/p
chemo and SBRT, on FOLFOX w/ desens, whose course has been c/b
recurrent bouts of cholangitis and hepatic abscess, p/w sepsis 
on
___ after having a plexus block on ___.

# Sepsis, resolving

Patient presented with fever, tachycardia, leukocytosis, despite
taking augmentin. Suspect most likely source is biliary with
elevated lfts and absence of any localizing symptoms. He quickly
improved with IV Zosyn. Imaging (MRCP, CT-torso) c/w metastatic 
disease rather
than cholangitis or abscesses. ID consulted and advised holding
abx, but ok to resume home prophylactic abx. Imaging and case
reviewed at tumor board today and noted that his findings are 
not
entirely clear w/ progression and recommended biopsy. 
He had a targeted liver biopsy ___ and the preliminary path
is not c/w abscess, more suggestive of malignancy. This was
relayed to the oncology team and they will follow up the 
results. 

- cont po cipro for prophylaxis
- oncology will arrange a f/u 

# Pleural Effusion
Has symptomatic new effusion w/ septations. S/p CP placement on
___ with over 1000 ml serosangeonous fluid removed and
symptomatic improvement. Studies c/w simple exudative effusion.
- IP will arrange a f/u

# Pancreatic Ca
He is undergoing palliative FOLFOX w/ oxali desens. Disease has
been under control but imaging c/f progression. 
- liver abscess-vs-met pathology/micro report pending
- cont creon

# PVT: cont apixaban 

# History of idiopathic seizure (word finding difficulties,
slowed speech, hand or finger jumping)
He states he has not had any further episodes of seizures since
the admission for it ___. He is now off zonisamide 

# History of opiate abuse: cont suboxone
# Anemia: likely from antineoplastic therapy 
# L5 Disc herniation: cont flexeril prn, has outpatient f/u

FEN: Regular
ACCESS: PORT
CODE STATUS: Full code, presumed  
DISPO: Onc-hosp, home w/o services
BILLING: >30 min spent coordinating care for discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
2. Cyclobenzaprine 10 mg PO TID:PRN back pain 
3. Creon 12 1 CAP PO TID W/MEALS 
4. Apixaban 5 mg PO BID 
5. Buprenorphine 1.4 mg SL DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO BID 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*28 Tablet Refills:*0 
2.  Apixaban 5 mg PO BID 
DO NOT RESUME UNTIL ___ IN AFTERNOON  
3.  Buprenorphine 1.4 mg SL DAILY  
4.  Creon 12 1 CAP PO TID W/MEALS  
5.  Cyclobenzaprine 10 mg PO TID:PRN back pain  
6.  Pantoprazole 40 mg PO Q24H  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sepsis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
 
Mr. ___,

It was a pleasure caring for you in the hospital. You were 
admitted for fever workup and found to have imaging findings 
concerning for possible metastatic disease that is progressing 
but discussions at tumor board feels these are more likely 
abscess. To help investigate this further, you had a liver 
biopsy done on ___. You can resume your apixaban 24 hours after 
your liver biopsy on ___. Your oncology team will follow up on 
the results. If you have any abdominal pain, especially in your 
right upper abdomen, or any dizziness and lightheadedness, this 
could be a sign of internal bleeding in the liver and you will 
need to seek immediate medical attention.

You also had a pleural effusion and you had the fluid drained 
from your lung with a chest tube. Interventional Pulmonology 
will call you with a follow up appointment. 

Wishing you best health,
Dr. ___ your ___ team
 
Followup Instructions:
___